US09062023B2
(b) 2-Methyl-N3-(4-pyridin-3-yl-pyrimidin-2-yl)-pyridine-3,5-diamine
A mixture of (2-methyl-5-nitro-pyridin-3-yl)-(4-pyridin-3-yl-pyrimidin-2-yl)-amine (450 mg, 11.84 mmol), catalytic ferric chloride (50 mg) in hydrazine hydrate (20 mL) and methanol (20 mL) was refluxed for 1 h. The reaction mixture was cooled to rt, concentrated under reduced pressure and the crude residue was diluted with water (10 mL) and extracted with EtOAc (2×25 mL). The combined extracts were dried over anhydrous Na2SO4, filtered, concentrated under reduced pressure. The residue was stirred with hexane (20 mL) for 5 min, the hexane layer was decanted and the residue was dried to give 280 mg of product as a pale yellow solid (Yield: 68%). Mp: 135° C.; 1H NMR (200 MHz, CDCl3): δ 2.51 (s, 3H), 3.65 (bs, 2H), 6.99 (s, 1H), 7.22 (d, J=4.0 Hz, 1H), 7.44 (m, 1H), 7.78 (d, J=10.0 Hz, 1H), 8.05 (d, J=2 Hz, 1H), 8.36-8.31 (m, 1H), 8.51 (d, J=4.0 Hz, 1H), 8.75-8.72 (m, 1H), 9.27 (d, J=2.0 Hz, 1H); Mass [M+H]+: 279.

reactant | (2-methyl-5-nitro-pyridin-3-yl)-(4-pyridin-3-yl-pyrimidin-2-yl)-amine | 11.84 mmol, 450 mg | CC1=NC=C(C=C1NC1=NC=CC(=N1)C=1C=NC=CC1)[N+](=O)[O-] | C15H12N6O2
solvent | hydrazine hydrate | 20 mL | O.NN
solvent | methanol | 20 mL | CO | CH4O
product | 2-Methyl-N3-(4-pyridin-3-yl-pyrimidin-2-yl)-pyridine-3,5-diamine | 280 mg, Yield: 68% | CC1=NC=C(C=C1NC1=NC=CC(=N1)C=1C=NC=CC1)N | C15H14N6
